US04691027
5-t-Butyldimethylsilyloxy-4,6,7-trimethyl-2-phenyl-1,3-benzoxathiole
2.6 g of 5-hydroxy-4,6,7-trimethyl-2-phenyl-1,3-benzoxathiole, 1.3 g of imidazole and 2.9 g of t-butyldimethylsilyl chloride were dissolved in 20 ml of dimethylformamide, and the mixture was reacted for 24 hours at room temperature. At the end of this time, the reaction mixture was poured into water. The separated product was extracted with benzene, and the extract was washed with a 5% w/v aqueous solution of ammonia and then with water and dried over anhydrous sodium sulfate. The solvent was evaporated off and the product thus obtained was purified by silica gel column chromatography. From the fraction eluted with a 10:1 by volume mixture of cyclohexane and benzene were obtained 3.1 g of the title compound, melting at 95°-98° C.

reactant | 5-hydroxy-4,6,7-trimethyl-2-phenyl-1,3-benzoxathiole | 2.6 g | OC=1C(=C(C2=C(SC(O2)C2=CC=CC=C2)C1C)C)C | C16H16O2S
reactant | imidazole | 1.3 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 2.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-t-Butyldimethylsilyloxy-4,6,7-trimethyl-2-phenyl-1,3-benzoxathiole | 3.1 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C2=C(SC(O2)C2=CC=CC=C2)C1C)C)C | C22H30O2SSi
